US04814344
3-(1H-Imidazol-1-yl)-1-(1H-indol-3-yl)-1-propanone
3-(Dimethylamino)-1-(1H-indol-3-yl)-1-propanone was converted to the methiodide (12.75 g) which was then reacted with imidazole (12.75 g) to give the title compound (4.67 g), m.p. 193°-197°; λmax (EtOH) 242.5 nm (ε11,130), λinf 257.5 nm (ε9,120), λmax 299 nm (ε12,420), identical with the material obtained in Example 2.

reactant | 3-(Dimethylamino)-1-(1H-indol-3-yl)-1-propanone | CN(CCC(=O)C1=CNC2=CC=CC=C12)C | C13H16N2O
reactant | imidazole | 12.75 g | N1C=NC=C1 | C3H4N2
product | 3-(1H-Imidazol-1-yl)-1-(1H-indol-3-yl)-1-propanone | 4.67 g | N1(C=NC=C1)CCC(=O)C1=CNC2=CC=CC=C12 | C14H13N3O
